US06005010
1 eq. of dimethyl 4-hydroxyphthalate, 1.1 eq. of potassium carbonate and 1.1 eq. of 4-methoxybenzyl chloride were stirred in DMF at RT. After 4 days, the mixture was worked up according to a standard procedure. Dimethyl 4-(4-methoxybenzyloxy)phthalate was isolated as a colorless oil. MS: 331 ((M+1)+)

reactant | dimethyl 4-hydroxyphthalate | 1 eq. | OC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C10H10O5
reactant | potassium carbonate | 1.1 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methoxybenzyl chloride | 1.1 eq. | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | CN(C)C=O | C3H7NO
product | Dimethyl 4-(4-methoxybenzyloxy)phthalate | COC1=CC=C(COC=2C=C(C(C(=O)OC)=CC2)C(=O)OC)C=C1 | C18H18O6
